US05641767
17.5 g (0,104 mol) of undec-10-yn-1-ol were dissolved in 100 ml of dichloromethane and 25 ml of dihydropyran, and a catalytic amount (spatula tipful) of p-toluenesulfonic acid monohydrate was added. The reaction mixture was left to stand overnight at room temperature and poured into saturated aqueous sodium chloride solution. Extraction with dichloromethane (3×), drying (Na2SO4) of the combined organic phases and flash chromatography on silica gel (n-heptane/ethyl acetate=10:1) gave 24 g (92% of theory) of 11-tetrahydropyranyloxyundecyne.

reactant | undec-10-yn-1-ol | 0,104 mol, 17.5 g | C(CCCCCCCCC#C)O | C11H20O
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium chloride | [Cl-].[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dihydropyran | 25 ml | O1CCCC=C1 | C5H8O
product | 11-tetrahydropyranyloxyundecyne | 24 g, 92% | O1C(CCCC1)OCCCCCCCCCC#C | C16H28O2
